US04752645
(E) 1,3,4,5-Tetrahydro-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one
Lithium iodide (11.98 g; 89.44 mmole) was added to 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one (9.69 g; 22.36 mmole) in pyridine (40 ml) and water (a few drops). The mixture was refluxed with stirring for 11 hours. The pyridine was vacuum distilled off and the residue was dissolved into methanol and washed with 1N hydrochloric acid (three times), and saturated sodium chloride, and dried (magnesium sulfate). The concentrated residue was black indicating some decomposition occurred. The 9.67 g of this black residue was flash chromatographed (silica gel/3:1-hexane:ethyl acetate, followed by 1:1-hexane/ethyl acetate). Appropriate fractions were combined and concentrated giving 5.87 g of the title compound as a solid.

reactant | Lithium iodide | 89.44 mmole, 11.98 g | [I-].[Li+]
reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 22.36 mmole, 9.69 g | COC(=O)C1(C(NC2=C(CC1C1=C(C=CC=C1)OC)C(=CC=C2)C(F)(F)F)=O)CC=C | C23H22F3NO4
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
catalyst | water | a few drops | O | H2O
product | 1,3,4,5-Tetrahydro-4-(methoxyphenyl)-3-(2-propenyl)-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 5.87 g | COC1=C(C=CC=C1)C1C(C(NC2=C(C1)C(=CC=C2)C(F)(F)F)=O)CC=C | C21H20F3NO2
